US06642224B1
To 7.44 g of 3-benzyloxy-N-(5-chloro-2-pyridyl)-2-nitrobenzamide were added 40 ml of trifluoroacetic acid and 3.72 g of pentamethylbenzene and the mixture was stirred at 40° C. for one night. The reaction solution was concentrated in vacuo, a saturated aqueous solution of sodium bicarbonate was added to the resulting residue to such an extent that the residue did not become alkaline and the mixture was extracted with chloroform. The organic layer was extracted with a 1N aqueous solution of sodium hydroxide and the aqueous layer was acidified by adding hydrochloric acid thereto and extracted with chloroform. The extract was dried over anhydrous magnesium sulfate, the solvent was evaporated in vacuo and 200 ml of an ethanolic suspension of Raney nickel was added to the resulting residue. The mixture was stirred in a hydrogen atmosphere for 6 hours, N,N-dimethylformamide was added and the insoluble matters were filtered off. The solvent was evaporated in vacuo and water was added to the resulting residue. The resulting precipitate was filtered and dried in vacuo to give 4.58 g of 2-amino-N-(5-chloro-2-pyridyl)-3-hydroxybenzamide.

reactant | 3-benzyloxy-N-(5-chloro-2-pyridyl)-2-nitrobenzamide | 7.44 g | C(C1=CC=CC=C1)OC=1C(=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC1)[N+](=O)[O-] | C19H14ClN3O4
reactant | pentamethylbenzene | 3.72 g | CC=1C(=C(C(=C(C1)C)C)C)C | C11H16
solvent | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-amino-N-(5-chloro-2-pyridyl)-3-hydroxybenzamide | 4.58 g | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC=C1O | C12H10ClN3O2
